US05589308
SYNTHESIS EXAMPLE 1 OF RESIN GRAIN (AL): (AL-1)
A mixed solution of 20 g of Dispersion Stabilizing Resin (Q-1) having the structure shown below, 30 g of methyl methacrylate, 55 g of methyl acrylate, 15 g of acrylic acid, 1.3 g of methyl 3-mercaptopropionate and 542 g of Isopar H was heated to a temperature of 60° C. under nitrogen gas stream while stirring. To the solution was added 0.8 g of 2,2'-azobis(isovaleronitile) (abbreviated as AIVN) as a polymerization initiator, followed by reacting for 2 hours. Twenty minutes after the addition of the polymerization initiator, the reaction mixture became white turbid, and the reaction temperature rose to 88° C. Then, 0.5 g of the above-described initiator was added to the reaction mixture, the reaction was carried out for 2 hours, and 0.3 g of the initiator was further added thereto, followed by reacting for 3 hours. After cooling, the reaction mixture was passed through a nylon cloth of 200 mesh to obtain a white dispersion which was a latex of good monodispersity with a polymerization ratio of 99% and an average grain diameter of 0.18 μm. The grain diameter was measured by CAPA-500 manufactured by Horiba Ltd. (hereinafter the same).

reactant | methyl methacrylate | 30 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl acrylate | 55 g | C(C=C)(=O)OC | C4H6O2
reactant | acrylic acid | 15 g | C(C=C)(=O)O | C3H4O2
reactant | methyl 3-mercaptopropionate | 1.3 g | SCCC(=O)OC | C4H8O2S
reactant | Isopar H | 542 g | CCCCCCCCC(C)C | C11H24
reactant | 2,2'-azobis(isovaleronitile) | 0.8 g | N(=NC(C#N)C(C)C)C(C#N)C(C)C | C10H16N4
product | AL-1 | CC#CC#C/C=C/1\[C@@H]2[C@@H](O2)[C@]3(O1)CC[C@@H](CO3)OC(=O)CC(C)C | C19H22O5
